US06900231B2
7. N-[4-Chloro-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-(4-fluoronaphthyl)acetamide (Doyle, M. P., et al. J. Org. Chem., 42:2426 (1977))
To a flask charged with copper(II) chloride (1.84 g, 13.7 mmol) was added a solution of tert-butylnitrite (1.46 g, 12.8 mmol, 90%, Aldrich) in acetonitrile (35 mL) under argon atmosphere. The resulting green reaction mixture was cooled in an ice-bath to 0° C., and a solution of N-[4-amino-2-fluor-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-(4-fluoronaphthyl) acetamide (3.58 g, 9.13 mmol), as prepared according to the procedure of the preceding step, in acetonitrile (60 mL) was added over a period of 45 minutes. After stirring for an additional 6 hours at 0° C., the resulting brown mixture was allowed to warm up to ambient temperature, then poured into 20% aqueous HCl (160 mL), and extracted with DCM (3 times). The extracts were combined, washed with 20% HCl, H2O, and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with EtOAc/DCM (0 and 2.5%) to deliver the title compound (2.1 g, 56% yield) as a white solid. 1H-NMR (400 MHz, CDCl3) δ 8.31 (br s, 1H), 8.24-8.12 (m, 3H), 7.84 (dd, J=8.2, 5.3 Hz, 1H). 7.68-7.60 (m, 2H), 7.22-7.20 (m, 2H), 3.87 (dd, J=12.6, 6.5 Hz, 2H), 3.09 (dt, J=6.7, 2.2 Hz, 2H), 1.47 (t, J=5.6 Hz, 2H). Mass spectrum (LCMS, ESI) calc'd for C20H15ClF4NO2 (M+H): 412.1. Found: 412.6.

reactant | tert-butylnitrite | 12.8 mmol, 1.46 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | N-[4-amino-2-fluor-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-(4-fluoronaphthyl) acetamide | 9.13 mmol, 3.58 g | NC1=C(C(=C(C=C1)NC(C(C1=CC=C(C2=CC=CC=C12)F)(F)F)=O)F)CCO | C20H16F4N2O2
reactant | HCl | 160 mL | Cl | ClH
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
catalyst | copper(II) chloride | 13.7 mmol, 1.84 g | [Cu](Cl)Cl
product | N-[4-Chloro-2-fluoro-3-(2-hydroxyethyl)phenyl]-2,2-difluoro-2-(4-fluoronaphthyl)acetamide | 2.1 g, 56% yield | ClC1=C(C(=C(C=C1)NC(C(C1=CC=C(C2=CC=CC=C12)F)(F)F)=O)F)CCO | C20H14ClF4NO2
